US05998433
b) Synthesis of (Z)-5-(3-chlorostilbene-4'-sulfonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride
(Z)-5-(3-Chlorostilbene-4'-sulfonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine 0.613 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | (Z)-5-(3-Chlorostilbene-4'-sulfonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.613 g | ClC=1C=C(C=CC1)\C=C/C1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC(=C2)CN2CCCC2 | C26H27ClN2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (Z)-5-(3-chlorostilbene-4'-sulfonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | Cl.ClC=1C=C(C=CC1)\C=C/C1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC(=C2)CN2CCCC2 | InChI=1S/C26H27ClN2O3S.ClH/c27-23-5-3-4-21(16-23)7-6-20-8-10-25(11-9-20)33(30,31)29-15-12-26-22(18-29)17-24(32-26)19-28-13-1-2-14-28;/h3-11,16-17H,1-2,12-15,18-19H2;1H/b7-6-;
